US07157465B2
2-Butoxyadenine
Sodium (13.6 g, 0.59 mol) was added to butanol (480 ml), the temperature of the mixture was raised to 90° C. to completely dissolve sodium therein. Subsequently, 2-chloroadenine (4.0 g, 23.6 mmol) was added, and the resultant was heated under reflux for 9 hours. After the reaction solution was cooled to 4° C., water (400 ml) was added thereto, and the resultant was vigorously stirred for 30 minutes. The separated layer of butanol was concentrated under reduced pressure, water (400 ml) was added to the residue, and concentrated hydrochloric acid was added dropwide under ice cooling to neutralize the product. The precipitated solid was collected by filtration, the resulting solid was added to ethanol (70 ml), and the resultant was heated under reflux for 30 minutes. The product was cooled to room temperature, and the precipitated solid was then collected by filtration. Thus, 3.72 g of the title compound was obtained (yield: 76%).

reactant | Sodium | 0.59 mol, 13.6 g | [Na] | Na
reactant | butanol | 480 ml | C(CCC)O | C4H10O
reactant | 2-chloroadenine | 23.6 mmol, 4.0 g | ClC1=NC(=C2NC=NC2=N1)N | C5H4ClN5
solvent | water | 400 ml | O | H2O
product | 2-Butoxyadenine | 3.72 g, yield: 76% | C(CCC)OC1=NC(=C2NC=NC2=N1)N | C9H13N5O
